US06391874B1
(1-(3,5-Difluoro-benzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)amine hydrochloride
The title compound was prepared according to Procedure A from 1-(3,5difluoro-benzyl)-1H-indazol-5-ylamine and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 12.50(1H,bs), 10.35(1H,s), 9.25(1H,s), 8.61(1H,s), 8.35(1H,m), 8.22(2H,m), 7.88(1H,dd), 7.75(2H,m), 7.16(1H,m), 6.93(1H,m), 5.73(2H,s), 2.67(3H,s); m/z (M+1+) 470.

reactant | 1-(3,5difluoro-benzyl)-1H-indazol-5-ylamine | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=C(C1)F | C14H11F2N3
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (1-(3,5-Difluoro-benzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)amine hydrochloride | Cl.FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C)C=C(C1)F | InChI=1S/C25H17F2N7O.ClH/c1-14-32-33-25(35-14)16-2-4-22-21(9-16)24(29-13-28-22)31-20-3-5-23-17(8-20)11-30-34(23)12-15-6-18(26)10-19(27)7-15;/h2-11,13H,12H2,1H3,(H,28,29,31);1H
